spice
* SPICE Netlist for given schematic

M1 3 2 0 0 NMOS // M1: Drain = 3, Gate = 2, Source = 0
M2 5 Vin 4 0 NMOS // M2: Drain = 5, Gate = Vin, Source = 4

RD 1 3 1k // Resistor RD between VDD (1) and Vout (3)
RG Vin 4 10k // Resistor RG between Vin and Net 4

VDD 1 0 DC 5V // DC Supply Voltage

.END